US07985753B2
(6-Chloro-pyrazolo[1,5-a]pyrimidin-2-yl)-(8-methyl-5,8-dihydro-6H-[1,7]naphthyridin-7-yl)-methanone
In close analogy to the procedure described in Example 1, 6-chloro-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid is reacted with 8-methyl-5,6,7,8-tetrahydro-[1,7]naphthyridine to provide the title compound in moderate yield.

reactant | 6-chloro-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid | ClC=1C=NC=2N(C1)N=C(C2)C(=O)O | C7H4ClN3O2
reactant | 8-methyl-5,6,7,8-tetrahydro-[1,7]naphthyridine | CC1NCCC=2C=CC=NC12 | C9H12N2
product | (6-Chloro-pyrazolo[1,5-a]pyrimidin-2-yl)-(8-methyl-5,8-dihydro-6H-[1,7]naphthyridin-7-yl)-methanone | ClC=1C=NC=2N(C1)N=C(C2)C(=O)N2CCC=1C=CC=NC1C2C | C16H14ClN5O
